US09056885B2
8-methoxy-5-methyl-2,3-dihydro-1H-benzo[b] azepine
The title compound was synthesized following the procedure for synthesizing 8-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine using 8-methoxy-5-methyl-1H-benzo[b]azepin-2(3H)-one (Aust. J. Chem. 1978, 31, 2031-2037) as starting material: 1H NMR (DMSO-d6) δ 7.28 (d, 1H), 6.46 (dd, 1H); 6.28 (d, 1H), 5.89 (t, 1H), 5.30 (s, 1H), 3.77 (s, 3H), 3.40 (t, 2H), 2.41 (q, 2H), 2.14 (d, 3H); MS expected 190 (C12H16NO, M+1), found 190.

reactant | 8-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine | COC=1C=CC2=C(NCCCC2)C1 | C11H15NO
reactant | 8-methoxy-5-methyl-1H-benzo[b]azepin-2(3H)-one | COC=1C=CC2=C(NC(CC=C2C)=O)C1 | C12H13NO2
product | 8-methoxy-5-methyl-2,3-dihydro-1H-benzo[b] azepine | COC=1C=CC2=C(NCCC=C2C)C1 | C12H15NO
